US08247377B2
Intermediate 17: 5-Amino-N-{2-[(ethylamino)methyl]-3,3,3-trifluoro-2-hydroxypropyl}-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide
To a solution of 5-amino-1-(4-fluorophenyl)-N-{[2-(trifluoromethyl)-2-oxiranyl]methyl}-1H-pyrazole-4-carb oxamide (2 g, 5.8 mmol) in acetonitrile (25 ml) was added ethylamine (5 ml, 23 mmol). The solution was stirred at room temperature for 24 hours under nitrogen before further ethylamine (2 ml) was added. The solution was concentrated under reduced pressure to give the title compound (2.290 g).

reactant | 5-amino-1-(4-fluorophenyl)-N-{[2-(trifluoromethyl)-2-oxiranyl]methyl}-1H-pyrazole-4-carb oxamide | 5.8 mmol, 2 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC1(OC1)C(F)(F)F | C14H12F4N4O2
reactant | ethylamine | 23 mmol, 5 ml | C(C)N | C2H7N
reactant | ethylamine | 2 ml | C(C)N | C2H7N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 5-Amino-N-{2-[(ethylamino)methyl]-3,3,3-trifluoro-2-hydroxypropyl}-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide | 2.290 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC(C(F)(F)F)(O)CNCC | C16H19F4N5O2
